datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Clc1cc(Cl)c(C[NH+]2CCOCC2)c([O:21][H:20])c1Cl.[O-]c1cc[n:10]cc1>>Clc1cc(Cl)c(C[NH+]2CCOCC2)c([O-:21])c1Cl.[O-]c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CN(C)C(O)[OH+:21][H:20].c1ccc2c([NH2:10])n[nH]c2c1>>CN(C)C(O)[OH:21].c1ccc2c([NH2+:10][H:20])n[nH]c2c1 10=20;20,21=21",
"Fc1ccccc1[O-:10].Nc1oc2c([n+:21]1[H:20])CCCC2>>Fc1ccccc1[O:10][H:20].Nc1oc2c([n:21]1)CCCC2 10=20;20,21=21",
"C/C=C/C=C/C(=O)[O:21][H:20].C=C(C)C(=O)OC(C)C[N:10](C)C>>C/C=C/C=C/C(=O)[O-:21].C=C(C)C(=O)OC(C)C[N+:10](C)(C)[H:20] 10=20;20,21=21",
"C1CCc2n[n:10]c3c(c2CC1)CCCC3.Cc1cc([O-])[n+:21]([H:20])c2c1CCO2>>C1CCc2n[n+:10]([H:20])c3c(c2CC1)CCCC3.Cc1cc([O-])[n:21]c2c1CCO2 10=20;20,21=21",
"COc1ccc2ccccc2[n+:21]1[H:20].Cc1cc[nH]c1C(=O)[O-:10]>>COc1ccc2ccccc2[n:21]1.Cc1cc[nH]c1C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1nc2ccccc2[nH+]c1[O:21][H:20].O=C(CSc1ccccc1)[O-:10]>>Cc1nc2ccccc2[nH+]c1[O-:21].O=C(CSc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"C=CC[NH+](CC=C)CCC[N:10](CC=C)CC=C.Cc1ccccc1C(c1ccccc1C)=[N+:21](CC[NH+](C)C)[H:20]>>C=CC[NH+](CC=C)CCC[N+:10](CC=C)(CC=C)[H:20].Cc1ccccc1C(c1ccccc1C)=[N:21]CC[NH+](C)C 10=20;20,21=21",
"CC(Cc1ccccc1)[NH:10]CCC#N.Fc1cccc([NH2+:21][H:20])c1>>CC(Cc1ccccc1)[NH+:10](CCC#N)[H:20].Fc1cccc([NH2:21])c1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]C>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](C)[H:20] 10=20;20,21=21",
"CCCCSCC(=O)[O-:10].Cc1cc(C)c([NH2+:21][H:20])c(C)c1>>CCCCSCC(=O)[O:10][H:20].Cc1cc(C)c([NH2:21])c(C)c1 10=20;20,21=21",
"Cc1nc(N)c2cnn(C)c2[n+:21]1[H:20].Nc1nc2[nH]cnc2c([O-])[n:10]1>>Cc1nc(N)c2cnn(C)c2[n:21]1.Nc1nc2[nH]cnc2c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"COc1ccc(CO[NH2+:21][H:20])cc1.Cc1ccc[n+]([O-:10])c1>>COc1ccc(CO[NH2:21])cc1.Cc1ccc[n+]([O:10][H:20])c1 10=20;20,21=21",
"CN1C(=O)C2(CCCCC2)[N-:10]C1=S.Cc1cc([O-])ccc1[O:21][H:20]>>CN1C(=O)C2(CCCCC2)[N:10]([H:20])C1=S.Cc1cc([O-])ccc1[O-:21] 10=20;20,21=21",
"Cc1c(N)cnc[n:10]1.c1ccc2c(c1)[nH]n[n+:21]2[H:20]>>Cc1c(N)cnc[n+:10]1[H:20].c1ccc2c(c1)[nH]n[n:21]2 10=20;20,21=21",
"CCc1cc(/N=N/c2ccc([N:10](C)C)cc2)ccc1C.C[C@H]1C[NH+:21]([H:20])[C@@H](C)C[NH2+]1>>CCc1cc(/N=N/c2ccc([N+:10](C)(C)[H:20])cc2)ccc1C.C[C@H]1C[NH:21][C@@H](C)C[NH2+]1 10=20;20,21=21",
"CC(=O)OC1C[N+:21]2([H:20])CCC1CC2.C[Si](C)(C)OC1C[N:10](Cc2ccccc2)C1>>CC(=O)OC1C[N:21]2CCC1CC2.C[Si](C)(C)OC1C[N+:10](Cc2ccccc2)([H:20])C1 10=20;20,21=21",
"CC(C)CP(=O)(CC(C)C)[O-:10].Nc1ccc(S(=O)(=O)[N:21](c2nccs2)[H:20])c(Cl)c1>>CC(C)CP(=O)(CC(C)C)[O:10][H:20].Nc1ccc(S(=O)(=O)[N-:21]c2nccs2)c(Cl)c1 10=20;20,21=21",
"Cc1ccc(O)c(C(=O)[O:21][H:20])c1.O=C([C@H]1CCCC[C@@H]1O)[O-:10]>>Cc1ccc(O)c(C(=O)[O-:21])c1.O=C([C@H]1CCCC[C@@H]1O)[O:10][H:20] 10=20;20,21=21",
"CC(C)[NH:10]CC(O)COc1ccccc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)[NH+:10](CC(O)COc1ccccc1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Cc1ccccc1C(=NCCC[N+:21](C)(C)[H:20])c1ccccc1C.O=C([O-])CNC(=O)c1cccc(O)c1[O-:10]>>Cc1ccccc1C(=NCCC[N:21](C)C)c1ccccc1C.O=C([O-])CNC(=O)c1cccc(O)c1[O:10][H:20] 10=20;20,21=21",
"COc1ccc2c3ccnc(C)c3[n-:10]c2c1.Clc1cc(Cl)c[n+:21]([H:20])c1>>COc1ccc2c3ccnc(C)c3[n:10]([H:20])c2c1.Clc1cc(Cl)c[n:21]c1 10=20;20,21=21",
"CCN(CC)Cc1cc(OC)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCN(CC)Cc1cc(OC)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)c1ccc([NH2:10])cc1.C[n+]1c(N[NH2+:21][H:20])ccc2ccccc21>>CC(=O)c1ccc([NH2+:10][H:20])cc1.C[n+]1c(N[NH2:21])ccc2ccccc21 10=20;20,21=21",
"CC[C@@H]1OC(=O)[C@@H](C)[C@H](O)[C@@H](C)[C@H](O[C@H]2O[C@@H](C)C[C@@H]([N+](C)(C)[O:21][H:20])[C@@H]2O)[C@]2(C)C[C@H](C)C3(O[C@]1(C)C=C3C)O2.Cc1ccc(C2CCC[NH+]2C)c[n:10]1>>CC[C@@H]1OC(=O)[C@@H](C)[C@H](O)[C@@H](C)[C@H](O[C@H]2O[C@@H](C)C[C@@H]([N+](C)(C)[O-:21])[C@@H]2O)[C@]2(C)C[C@H](C)C3(O[C@]1(C)C=C3C)O2.Cc1ccc(C2CCC[NH+]2C)c[n+:10]1[H:20] 10=20;20,21=21",
"COc1ccc(O)c(C[N:10](C)C)c1.O=C(c1cncs1)[O:21][H:20]>>COc1ccc(O)c(C[N+:10](C)(C)[H:20])c1.O=C(c1cncs1)[O-:21] 10=20;20,21=21",
"Cc1ccc([N:10]2CCCC(=O)C(O)CCC2)cc1.Cc1cnc2c(c1)cc(C)c1cc(C)c[n+:21]([H:20])c12>>Cc1ccc([N+:10]2([H:20])CCCC(=O)C(O)CCC2)cc1.Cc1cnc2c(c1)cc(C)c1cc(C)c[n:21]c12 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc([O-:10])c(C2=[NH+]CCN2)c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc([O:10][H:20])c(C2=[NH+]CCN2)c1 10=20;20,21=21",
"CC1(C)C[NH:10]1.CCCC[NH2+]CC[NH+:21](CCCC)[H:20]>>CC1(C)C[NH+:10]1[H:20].CCCC[NH2+]CC[NH:21]CCCC 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N:10]1CCCCCCC1.CCCC[S:21][H:20]>>CC(C=C(c1cccs1)c1cccs1)[N+:10]1([H:20])CCCCCCC1.CCCC[S-:21] 10=20;20,21=21",
"CSc1ncc2[nH]c[n+:21]([H:20])c2n1.[O-]c1c2ccccc2cn[n:10]1>>CSc1ncc2[nH]c[n:21]c2n1.[O-]c1c2ccccc2cn[n+:10]1[H:20] 10=20;20,21=21",
"CCCN1C=CC(=CC=C2C=CC(=[O+:21][H:20])C=C2)C=C1.O=C([O-])c1ccc2c(c1)cc1ccccc1[n:10]2>>CCCN1C=CC(=CC=C2C=CC(=[O:21])C=C2)C=C1.O=C([O-])c1ccc2c(c1)cc1ccccc1[n+:10]2[H:20] 10=20;20,21=21",
